### PR TITLE
[Merged by Bors] - feat(Probability): define a Kernel from Bool

### PR DESCRIPTION
**Pull request by RemyDegenne**
This PR adds a definition `boolKernel μ ν`, the kernel from `Bool` that sends `false` to `μ` and `true` to `ν`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/Basic.lean [hunk 1]
```diff
@@ -413,5 +413,35 @@ lemma exists_ae_eq_isMarkovKernel {μ : Measure α}
...
+
+instance [IsFiniteMeasure μ] [IsFiniteMeasure ν] : IsFiniteKernel (boolKernel μ ν) :=
+  ⟨max (μ .univ) (ν .univ), max_lt (measure_lt_top _ _) (measure_lt_top _ _),
+    fun b ↦ by cases b <;> simp⟩
+
+instance [IsProbabilityMeasure μ] [IsProbabilityMeasure ν] : IsMarkovKernel (boolKernel μ ν) where
+  isProbabilityMeasure b := by
+    cases b
+      <;> simp only [boolKernel_apply, Bool.false_eq_true, ↓reduceIte]
+      <;> infer_instance
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Basic.lean:439]: indentation is weird here.

File: Mathlib/Probability/Kernel/Basic.lean [hunk 2]
```diff
@@ -413,5 +413,35 @@ lemma exists_ae_eq_isMarkovKernel {μ : Measure α}
...
+  toFun := fun b ↦ if b then ν else μ
+  measurable' := .of_discrete
+
+lemma boolKernel_false : boolKernel μ ν false = μ := rfl
+
+lemma boolKernel_true : boolKernel μ ν true = ν := rfl
+
+@[simp] lemma boolKernel_apply (b : Bool) : boolKernel μ ν b = if b then ν else μ := rfl
+
+instance [IsFiniteMeasure μ] [IsFiniteMeasure ν] : IsFiniteKernel (boolKernel μ ν) :=
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Basic.lean:431]: Could you prove the same for sfiniteness (assuming both measures are sfinite)?

File: Mathlib/Probability/Kernel/Basic.lean (hunk 1 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Kernel/Basic.lean:439]: I don't see why it's weird. The start of the proof (`cases b`) is indented with respect to the field name. Then `<;>` is indented. How would you indent it?

Comment (sgouezel) [reply Mathlib/Probability/Kernel/Basic.lean:439]: My mistake, reading too quickly. Sorry!

**Comment by sgouezel** [comment]
bors r+
Thanks!
